US06337332B1
Step A: Preparation of 2-[2-(4-chloro-phenyl)-vinyl]-8-hydroxy-3-[3-(1-phenethyl-piperidin-4-yl)-propyl]-3H-quinazolin-4-one
A solution of 2-[2-(4-chloro-phenyl)-vinyl]-8-methoxy-3-[3-(1-phenethyl-piperidin-4-yl)-propyl]-3H-quinazolin-4-one (530 mg, 0.98 mmol) in conc HBr/HOAc (1:1 mixture, 60 mL) was heated at 120° C. for 48 h. After cooling to room temperature, the reaction mixture was concentrated under vacuum to yield the desired product. API-MS: 529 (M+1)

reactant | 2-[2-(4-chloro-phenyl)-vinyl]-8-methoxy-3-[3-(1-phenethyl-piperidin-4-yl)-propyl]-3H-quinazolin-4-one | 0.98 mmol, 530 mg | ClC1=CC=C(C=C1)C=CC1=NC2=C(C=CC=C2C(N1CCCC1CCN(CC1)CCC1=CC=CC=C1)=O)OC | C33H36ClN3O2
solvent | HBr HOAc | 60 mL | Br.CC(=O)O
product | 2-[2-(4-chloro-phenyl)-vinyl]-8-hydroxy-3-[3-(1-phenethyl-piperidin-4-yl)-propyl]-3H-quinazolin-4-one | ClC1=CC=C(C=C1)C=CC1=NC2=C(C=CC=C2C(N1CCCC1CCN(CC1)CCC1=CC=CC=C1)=O)O | C32H34ClN3O2
